US04853405
To a solution of 4-hydroxy-6-methoxy-2,3-dihydro-4H-1-benzopyran (20 g) dissolved in benzene (150 ml), phosphorus trichloride (16.7 g) diluted in benzene (50 ml) is cautiously added under stirring at a temperature maintained below 20° C. by external cooling, then the reaction mixture is kept at 50° C. for 1 hour. After cooling the solution is poured into a 10% NaHCO3 solution (1 l) containing ice, under stirring, then the organic phase is separated and the aqueous phase extracted with ethyl acetate. The organic solutions are evaporated to dryness in vacuo to yield crude 4-chloro-6-methoxy-2,3-dihydro-4H-1-benzopyran as brown oil (21.5 g), which is dissolved in anhydrous dimethylformamide (90 ml) and added under stirring at about 20° C. to a solution of diethylmalonate carbanion (prepared from 19.1 g of diethylmalonate and 5.7 g of 50% sodium hydride) in anhydrous dimethylformamide (30 ml). The reaction mixture is heated at 70° C. for 7 hours, then is cooled at room temperature and diluted with ice water containing excess NaH2PO4.

reactant | 4-hydroxy-6-methoxy-2,3-dihydro-4H-1-benzopyran | 20 g | OC1CCOC2=C1C=C(C=C2)OC | C10H12O3
reactant | phosphorus trichloride | 16.7 g | P(Cl)(Cl)Cl | Cl3P
reactant | NaHCO3 | 1 l | C(=O)(O)[O-].[Na+]
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 4-chloro-6-methoxy-2,3-dihydro-4H-1-benzopyran | 21.5 g | ClC1CCOC2=C1C=C(C=C2)OC | C10H11ClO2
